US04451471
100 g of 2-bromo-1,2-bis-(p-methoxyphenyl)-ethanone are mixed with 700 ml of 96% strength ethanol and 25.4 g of sodium thiocyanate and the mixture is heated at 45° for 2 hours. The mixture is then concentrated to dryness by evaporation under reduced pressure, 500 ml of ice-water are added, the mixture is filtered with suction and the residue is then washed twice with ice-water. The crude product is taken up in 1500 ml of methylene chloride, the remaining water is removed and the product is dried over magnesium sulphate. The product is then concentrated to approximately 200 ml, allowed to cool, filtered with suction again, then washed with a little methylene chloride and dried under reduced pressure. 1,2-bis-(p-methoxyphenyl)-2-isothiocyano-ethanone having a melting point of 155° is obtained.

reactant | 2-bromo-1,2-bis-(p-methoxyphenyl)-ethanone | 100 g | BrC(C(=O)C1=CC=C(C=C1)OC)C1=CC=C(C=C1)OC | C16H15BrO3
reactant | sodium thiocyanate | 25.4 g | [S-]C#N.[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 1,2-bis-(p-methoxyphenyl)-2-isothiocyano-ethanone | COC1=CC=C(C=C1)C(C(N=C=S)C1=CC=C(C=C1)OC)=O | C17H15NO3S
